US06635657B1
D. N-(5-Methylpyridin-2-yl)-2-[[1-(4-pyridinyl)piperidin-4-ylcarbonyl]amino]benzamide Hydrochloride
To a stirring solution of N-(5-methylpyridin-2-yl)-2-aminobenzamide (0.28 g, 1.2 mmol) in pyridine (5 mL) and dichloromethane (40 mL) was added a solution of 1-(4-pyridinyl)piperidin-4-ylcarbonyl chloride (0.55 g, 2.5 mmol) in dichloromethane (40 mL). After stirring overnight, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate (300 mL) and 1 N NaOH (150 mL). The organic phase was separated and washed again with 1 N NaOH, followed by water and brine, then dried with MgSO4, filtered and concentrated in vacuo. The residue was then purified by preparative RPHPLC (C18), eluting with a linear gradient of 90/10 to 50/50 (0.01% HCl/acetonitrile) over 180 min. The pure product containing fractions were combined and lypholized to give 222 mg (40%) of a white powder.

reactant | N-(5-methylpyridin-2-yl)-2-aminobenzamide | 1.2 mmol, 0.28 g | CC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N)=O | C13H13N3O
reactant | 1-(4-pyridinyl)piperidin-4-ylcarbonyl chloride | 2.5 mmol, 0.55 g | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-(5-Methylpyridin-2-yl)-2-[[1-(4-pyridinyl)piperidin-4-ylcarbonyl]amino]benzamide Hydrochloride | 222 mg, 40% | Cl.CC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)C1CCN(CC1)C1=CC=NC=C1)=O | InChI=1S/C24H25N5O2.ClH/c1-17-6-7-22(26-16-17)28-24(31)20-4-2-3-5-21(20)27-23(30)18-10-14-29(15-11-18)19-8-12-25-13-9-19;/h2-9,12-13,16,18H,10-11,14-15H2,1H3,(H,27,30)(H,26,28,31);1H
